US07317032B2
A. (1-Pentyl-pyrrolidin-3-yl)-methyl-carbamic acid tert-butyl ester
To a solution of 3-(N-BOC-N-methylamino)pyrrolidine (150 mg, 0.75 mmol) in DMF (1.5 mL) was added potassium iodide (25 mg, 0.15 mmol) and potassium carbonate (207 mg, 1.50 mmol) followed by 1-bromopentane (0.097 mL, 0.78 mmol). The mixture was stirred 7 h at room temperature. Most of the DMF was then removed under low pressure and the residue partitioned between dichloromethane and water. The organic layer was dried over sodium sulfate and concentrated to give the title compound (198 mg, 98% yield) as an oil. MS m/e 271.

reactant | 3-(N-BOC-N-methylamino)pyrrolidine | 0.75 mmol, 150 mg | C(=O)(OC(C)(C)C)N(C)C1CNCC1 | C10H20N2O2
reactant | potassium iodide | 0.15 mmol, 25 mg | [I-].[K+]
reactant | potassium carbonate | 1.50 mmol, 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopentane | 0.78 mmol, 0.097 mL | BrCCCCC | C5H11Br
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (1-Pentyl-pyrrolidin-3-yl)-methyl-carbamic acid tert-butyl ester | 198 mg, 98% yield | C(C)(C)(C)OC(N(C)C1CN(CC1)CCCCC)=O | C15H30N2O2
